US08008298B2
To a flask was added 1-[2-(3-Amino-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one 0.027 gm (0.092 mM), 1 ml dichloromethane, diisopropylethylamine 0.040 ml (0.23 mM) and benzenesulfonyl chloride 0.026 ml (0.204 mM). The mixture was stirred over night. Additional benzenesulfonyl chloride 0.0095 ml (0.074 mM) and diisopropylethylamine 0.015 ml (0.086 mM) was added and the mixture stirred overnight. The mixture was concentrated, 10 ml water and a few drops 1 M hydrochloric acid were added and it was extracted with ethyl acetate (3×30 ml). The ethyl acetate was dried over magnesium sulfate, stripped and purified on a preparative TLC plate (35:65 ethyl acetate/hexane) to give the diadduct 0.035 gm (0.061 mM, 66% yield). The diadduct was dissolved in a mixture of 3 ml THF and 6 ml MeCN. To this was added 0.4 ml 3M aqueous sodium hydroxide and the mixture heated to 55° C. for 4 hours. To this was added 50 ml water and concentrated on a rotary evaporator to remove the THF and MeCN. To the mixture was added 1M hydrochloric acid till neutral (solid forms) and extracted with ethyl acetate (3×50 ml). The solution was dried over magnesium sulfate and purified by preparative TLC (50:50 ethyl acetate/hexane) to give N-{3-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-benzenesulfonamide 0.015 gm (0.035 mM, 38% overall yield) M+1 435, m.p. 217-219° C.

reactant | 1-[2-(3-Amino-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.092 mM, 0.027 gm | NC=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C17H18N4O
reactant | diisopropylethylamine | 0.23 mM, 0.040 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzenesulfonyl chloride | 0.204 mM, 0.026 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | benzenesulfonyl chloride | 0.074 mM, 0.0095 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | diisopropylethylamine | 0.086 mM, 0.015 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydroxide | 3M, 0.4 ml | [OH-].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | MeCN | 6 ml | CC#N | C2H3N
solvent | water | 50 ml | O | H2O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N-{3-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-benzenesulfonamide | 0.035 mM, 0.015 gm, 38% | CC(C(=O)C1=CNC2=NC=C(N=C21)C=2C=C(C=CC2)NS(=O)(=O)C2=CC=CC=C2)(C)C | C23H22N4O3S
